US07592373B2
4.3.a. pyridin-2-ylpropynoic Acid
6.3 mL of n-butyllithium solution (1.6M in hexane) is added dropwise at −10° C. to a solution of 1 g (9.7 mmol) of 2-ethynylpyridine in 30 mL of absolute THF and stirred for 30 minutes. At −78° C., dry ice is added batchwise and the reaction mixture is allowed to heat up to ambient temperature. After about 1 hour, the reaction mixture is evaporated down and the residue is taken up in 10 mL of 1N hydrochloric acid while cooling with ice. The precipitate is filtered off, rinsed with isopropanol and diethyl ether, and dried in the vacuum drying chamber at 70° C. Yield: 0.6 g (42% of theory); melting point: 130° C.; C8H5NO2 (M=147.13); calc.: molecular ion peak (M+H)+: 148; found: molecular ion peak (M+H)+: 148.

reactant | n-butyllithium | 1.6M, 6.3 mL | C(CCC)[Li]
reactant | 2-ethynylpyridine | 9.7 mmol, 1 g | C(#C)C1=NC=CC=C1 | C7H5N
reactant | dry ice | C(=O)=O | CO2
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | pyridin-2-ylpropynoic Acid | N1=C(C=CC=C1)C#CC(=O)O | C8H5NO2
